US09315521B2
2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol (100 mg, 367 μmol) was stirred in methanol (10 mL), and a solution of 4 N HCl in dioxane (140 μL, 551 μmol) was added dropwise at 0° C. The mixture was stirred for 1 hour at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford to 2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol hydrochloride (118 mg, 100% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.25 (s, 3H), 4.62 (s, 2H), 6.11 (s, 1H), 6.84 (dt, J=2.1 Hz, J=6.4 Hz, 1H), 7.88-7.94 (m, 2H), 8.30 (s, 1H), 8.88 (d, J=6.8 Hz, 1H); LRMS (ES+) m/z 273 (100%, M+1).

reactant | 2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol | 367 μmol, 100 mg | N=1C(=CN2C1C=CC=C2)CSC2=NC(=CC(=N2)O)C | C13H12N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 551 μmol, 140 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol hydrochloride | 118 mg, 100% yield | Cl.N=1C(=CN2C1C=CC=C2)CSC2=NC(=CC(=N2)O)C | InChI=1S/C13H12N4OS.ClH/c1-9-6-12(18)16-13(14-9)19-8-10-7-17-5-3-2-4-11(17)15-10;/h2-7H,8H2,1H3,(H,14,16,18);1H
